US05618806
corresponding to Scheme IV 17β-(3,4-Methylenedioxybenzoyl)-estra-1,3,5(10)-triene-3-carboxylic acid.
To a stirred mixture of 17β-(3,4-methylenedioxybenzoyl)-estra-1,3,5(10)-triene-3-carboxaldehyde (0.041 g, 0,1 mmoles), tert-butyl alcohol (1.05 mL), 2-methyl-2-butene (4 mL of 2M solution in THF, 8 mmoles) at 0° C. was added a solution of NaClO2 (9 mg, 0.1 mmoles) and NaH2PO4. H2O (0.137 g, 0.1 mmoles) in H2O (0.4 ml) and stirred for 2 hours at ambient temperature. Acetic acid (glacial, 0.8 ml) and saturated NaCl solution (1.3 mL) were added to the reaction mixture which was extracted with EtOAc. The organic layer was washed with H2O, brine, dried (MgSO4), concentrated and azetroped with toluene. The resulting solid was triturated with CH3CN- acetone and filtered to give 0.02 g (47%) of the title compound as a white solid, mp 235°-237° C.

reactant | 17β-(3,4-methylenedioxybenzoyl)-estra-1,3,5(10)-triene-3-carboxaldehyde | 0,1 mmoles, 0.041 g | C1OC=2C=C(C(=O)[C@@H]3[C@]4(C)[C@@H](CC3)[C@@H]3CCC=5C=C(C=CC5[C@H]3CC4)C=O)C=CC2O1 | C27H28O4
reactant | 2-methyl-2-butene | 8 mmoles, 2M, 4 mL | CC(C)=CC | C5H10
reactant | NaClO2 | 0.1 mmoles, 9 mg | [O-]Cl=O.[Na+]
reactant | NaCl | 1.3 mL | [Na+].[Cl-]
solvent | H2O | 0.4 ml | O | H2O
solvent | H2O | 0.1 mmoles, 0.137 g | O | H2O
solvent | Acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
solvent | tert-butyl alcohol | 1.05 mL | C(C)(C)(C)O | C4H10O
product | 17β-(3,4-Methylenedioxybenzoyl)-estra-1,3,5(10)-triene-3-carboxylic acid | 0.02 g, 47% | C1OC=2C=C(C(=O)[C@@H]3[C@]4(C)[C@@H](CC3)[C@@H]3CCC=5C=C(C=CC5[C@H]3CC4)C(=O)O)C=CC2O1 | C27H28O5
